US05037825
6.90 g of 2,3,4,5-tetrahydro-1-benzoxepin-7-yl methyl ketone in 60 ml of methanol were treated portionwise with 2.33 g of sodium borohydride (NaBH4) at 0° C. while stirring. After a half hour the reaction mixture was poured on to ice, extracted with ether. The extract was washed with water, dried and evaporated. Chromatography on silica gel (petroleum ether/ethyl acetate 8:2) yielded 5.71 g of 2,3,4,5-tetrahydro-α-methyl-1-benzoxepine-7-methanol as a colorless oil.

reactant | 2,3,4,5-tetrahydro-1-benzoxepin-7-yl methyl ketone | 6.90 g | CC(=O)C=1C=CC2=C(CCCCO2)C1 | C12H14O2
reactant | sodium borohydride | 2.33 g | [BH4-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2,3,4,5-tetrahydro-α-methyl-1-benzoxepine-7-methanol | 5.71 g | CC(O)C=1C=CC2=C(CCCCO2)C1 | C12H16O2
